US07851623B2
To a solution of tert-butyl 2-(2-fluoro-3-hydroxy-6-nitrophenyl)-3-oxobutanoate (7.89 g) in dichloromethane was added trifluoroacetic acid (11.2 g) and the mixture stirred at ambient temperature for 20 hours. The mixture was concentrated to a thick paste and toluene (14 ml) added and the mixture distilled on a rotary evaporator (77 mbar, bath 40° C.). Further toluene (14 ml) was added and the mixture distilled. Sodium hydroxide (7.4% w/w, 20 ml) was added and the lower aqueous layer separated and washed with toluene (18 ml). The aqueous layer was diluted with water (20 ml) and warmed to 40° C. Acetic acid (13 ml) was added followed by sulphuric acid (20% w/w, 20 ml). The mixture was cooled to 0° C. and further water (43 ml) added. The mixture was cooled to −5° C. and left overnight. The solid was filtered and washed with water (24 ml). The solid was dried in a vacuum oven to give 1-(2-fluoro-3-hydroxy-6-nitrophenyl)-propan-2-one (1.65 g, 30.7%).

reactant | tert-butyl 2-(2-fluoro-3-hydroxy-6-nitrophenyl)-3-oxobutanoate | 7.89 g | FC1=C(C(=CC=C1O)[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(C)=O | C14H16FNO6
reactant | trifluoroacetic acid | 11.2 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-fluoro-3-hydroxy-6-nitrophenyl)-propan-2-one | 1.65 g, 30.7% | FC1=C(C(=CC=C1O)[N+](=O)[O-])CC(C)=O | C9H8FNO4
